US04968678
To a solution of 12.95 g (0.031 mol, containing triphenylphosphine oxide) of methyl cis-4-(2-bromoethyl)-N-t-butoxycarbonyl-2-piperidinecarboxylate and 40 ml of DMSO was added 2.30 g (0.047 mol) of sodium cyanide. The mixture was stirred for approximately 30 minutes at 50° C. To the mixture was added 50 ml each of water and brine and the mixture was extracted four times with methylene chloride and once with diethyl ether. The organic extracts were combined, washed twice with water and once with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The resultant residue was dissolved in 100 ml of ethyl acetate:hexane (1:3, v:v) and filtered through a one inch pad of silica gel (230-400 mesh) in a 150 ml medium porosity sintered glass funnel. The silica gel pad was washed with an additional 400 ml of ethyl acetate:hexane (1:3, v:v). The filtrate was concentrated under vacuum to afford 7.85 g of methyl cis-4-(2-cyanoethyl)-N-t-butoxycarbonyl-2-piperidinecarboxylate.

reactant | methyl cis-4-(2-bromoethyl)-N-t-butoxycarbonyl-2-piperidinecarboxylate | 0.031 mol, 12.95 g | BrCC[C@@H]1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OC | C14H24BrNO4
reactant | DMSO | 40 ml | CS(=O)C | C2H6OS
reactant | sodium cyanide | 0.047 mol, 2.30 g | [C-]#N.[Na+]
reactant | water | 50 ml | O | H2O
solvent | brine | [Cl-].[Na+].O
product | methyl cis-4-(2-cyanoethyl)-N-t-butoxycarbonyl-2-piperidinecarboxylate | 7.85 g | C(#N)CC[C@@H]1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OC | C15H24N2O4
